US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-3-yl)acetamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-3-yl)acetamide (86 mg) was prepared from 3-pyridylacetic acid (139 mg, 0.8 mmol) and intermediate 27 (120 mg, 0.5 mmol) as a pale yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (75 mg) as a pale yellow solid. M.P. 103-108° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.71 (s, 1H), 8.92 (s, 1H), 8.84 (d, J 5.1, 1H), 8.55 (d, J 7.8, 1H), 8.06-8.01 (m, 1H), 7.72 (d, J 8.8, 2H), 7.51 (d, J 8.8, 2H), 5.78 (s, 1H), 4.05 (s, 2H), 1.85-1.69 (m, 2H), 0.91-0.79 (m, 4H), 0.68-0.58 (m, 4H). MS (m/z): 393.05 [M−H]−.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-3-yl)acetamide | 86 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC=1C=NC=CC1)=O | C22H22N4O
reactant | 3-pyridylacetic acid | 0.8 mmol, 139 mg | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-3-yl)acetamide hydrochloride | 75 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC=1C=NC=CC1)=O | InChI=1S/C22H22N4O.ClH/c27-22(12-15-2-1-11-23-14-15)24-18-7-9-19(10-8-18)26-21(17-5-6-17)13-20(25-26)16-3-4-16;/h1-2,7-11,13-14,16-17H,3-6,12H2,(H,24,27);1H
